data/mechanism_extracts/ChemCommun/10.1039_D5CC04608D.json
{"doi": "10.1039_D5CC04608D", "journal": "ChemCommun", "is_review": false, "rxn_class_summary": "Catalyst-free electrochemical bromochlorination of alkenes using bromide as Br source and hexachloroethane (C2Cl6) as Cl source via paired electrolysis", "mechanism_family": ["paired_electrolysis", "cation_initiated", "anion_initiated"], "electrochemical_role": "Anodic two-step oxidation of Br- to Br+ cation; simultaneous cathodic reduction of C2Cl6 to Cl- anion and C2Cl4", "key_intermediates": [{"name": "bromine cation (Br+)", "smiles": "[Br+]", "role": "reactive"}, {"name": "chloride anion (from cathodic reduction of C2Cl6)", "smiles": "[Cl-]", "role": "reactive"}, {"name": "bromonium intermediate M (from alkene + Br+)", "smiles": null, "role": "reactive"}, {"name": "dibromide product 5 (from Br- attack on bromonium)", "smiles": null, "role": "transient"}, {"name": "dichloride product 4 (from over-conversion of 2 or 5)", "smiles": null, "role": "off_pathway"}, {"name": "tetrachloroethylene (C2Cl4)", "smiles": "ClC(Cl)=C(Cl)Cl", "role": "transient"}], "electron_flow": "At the anode, Br- undergoes two-step oxidation to Br+, which adds to the alkene to form a bromonium ion M; chloride, generated at the cathode by reduction of C2Cl6 (yielding Cl- and C2Cl4), opens M to give the bromochloride product 2 (Path I). In a parallel Path II, Br- opens M to dibromide 5, which is then converted to 2 by Cl-.", "rate_determining_step": null, "probe_reagents": [{"name": "MeOH", "smiles": "CO", "purpose": "intermediate_trap", "observation": "Bromoalkoxylation product 6a formed in 21% yield, supporting bromonium intermediate"}, {"name": "tBuOH", "smiles": "CC(C)(C)O", "purpose": "intermediate_trap", "observation": "Bulky alcohol gave only trace bromoalkoxylation (6b) and bromochloride 2a in 56%, consistent with bromonium intermediate"}, {"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Significant yield decrease of 2a, but no BHT adducts detected by HRMS"}, {"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Significant yield decrease of 2a, no TEMPO adducts observed"}, {"name": "(1-cyclopropylvinyl)benzene 1p", "smiles": "C(=C)(c1ccccc1)C1CC1", "purpose": "radical_clock", "observation": "Ring-opened product 7p obtained in 50% yield, suggesting involvement of a Br radical or cation"}, {"name": "bromochloride 2a (as substrate)", "smiles": null, "purpose": "intermediate_trap", "observation": "Converts to dichloride 4a (up to 18% with nBu4NCl); 8% without electricity, confirming interconversion"}, {"name": "dibromide 5a (as substrate)", "smiles": null, "purpose": "intermediate_trap", "observation": "Converts to bromochloride 2a (up to 53% with nBu4NCl) and small amounts of 4a, confirming 5a is on-path intermediate"}], "evidence_types_used": ["radical_clock", "intermediate_trap_TEMPO", "intermediate_trap_BHT", "intermediate_trap_other", "cyclic_voltammetry", "stoichiometric_intermediate", "kinetic_order", "isolation_of_intermediate"], "evidence_strength": "strong", "notes": "CV showed Br- oxidation (E1/2 = 0.98 V and 1.4 V) easier than styrene (2.06 V), indicating Br- is oxidized first rather than direct alkene oxidation. CV also confirmed C2Cl6 reduction at -1.46 V as the Cl source. Kinetics show dibromide 5a forms first, then converts to bromochloride 2a as Cl- accumulates; dichloride 4a forms only later from over-chlorination. Radical trap experiments suppress reaction but give no adducts, while cyclopropyl clock opens — the authors favor a cationic bromonium pathway but acknowledge possible Br radical/cation character."}
